US07749992B2
Step 2. Preparation of (R)-2,2-Difluoro-9-hydroxy-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
Add a solution of 2,2-Difluoro-9-oxo-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (2.2 mmol) in THF (20 mL), to a cooled (−78° C.) solution of Borane-methyl sulfide (2.6 mmol) and (R)-2-methyl-CBS-oxazaborolidine (3.3 mmol) in THF (20 mL). After warming slowly to 0° C. for 1 h, quench the reaction with methanol (2 mL). Remove solvent under vacuum and chromatograph using ethyl acetate/hexane (2-35%) to elute. This gives the title compound as a colorless solid.

reactant | 2,2-Difluoro-9-oxo-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 2.2 mmol | C(C)(C)(C)OC(=O)N1CCCC(C2=CC=3OC(OC3C=C21)(F)F)=O | C16H17F2NO5
reactant | Borane methyl sulfide | 2.6 mmol | B.CSC
reactant | (R)-2-methyl-CBS-oxazaborolidine | 3.3 mmol | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-2,2-Difluoro-9-hydroxy-6,7,8,9-tetrahydro-1,3-dioxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@H](C2=CC=3OC(OC3C=C21)(F)F)O | C16H19F2NO5
